US06344459B1
To a stirred solution of 6-amino-4-[(3-methylphenyl)amino]pyrido[3,4-d]pyrimidine, made from m-toluidine and 4-chloro-6-fluoropyrido[3,4-d]pyrimidine, followed by p-methoxybenzylamine and trifluoroacetic acid, as described in the previous example (140 mg, 0.56 mmol), DMAP (14 mg) and Et3N (excess, 0.5 mL) at 0° C. under N2 was added acryloyl chloride (2.7 mol eq., 123 μL) dropwise over 3 hours. The reaction was then stirred at 20° C. for 1 hour, diluted with water and extracted with EtOAc. The combined organic extracts were washed with brine, dried over anhydrous Na2SO4 and concentrated under reduced pressure before being chromatographed on silica gel eluting with CH2Cl2/EtOAc (1:1) to MeOH/CH2Cl2/EtOAc (2:48:50), to give N-[4-[(3-methylphenyl)amino]pyrido[3,4-d]pyrimidin-6-yl]acrylamide (41 mg, 24%) as a cream powder, mp (EtOAc/hexane) 221-223° C. (decomp).

reactant | 6-amino-4-[(3-methylphenyl)amino]pyrido[3,4-d]pyrimidine | NC1=CC2=C(N=CN=C2NC2=CC(=CC=C2)C)C=N1 | C14H13N5
reactant | m-toluidine | NC1=CC(=CC=C1)C | C7H9N
reactant | 4-chloro-6-fluoropyrido[3,4-d]pyrimidine | ClC=1C2=C(N=CN1)C=NC(=C2)F | C7H3ClFN3
reactant | p-methoxybenzylamine | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | acryloyl chloride | C(C=C)(=O)Cl | C3H3ClO
catalyst | DMAP | 14 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | O | H2O
solvent | Et3N | 0.5 mL | CCN(CC)CC | C6H15N
product | N-[4-[(3-methylphenyl)amino]pyrido[3,4-d]pyrimidin-6-yl]acrylamide | 41 mg, 24% | CC=1C=C(C=CC1)NC=1C2=C(N=CN1)C=NC(=C2)NC(C=C)=O | C17H15N5O
